US04661501
A mixture of 0.5 g of 1-(3-phenoxyphenyl)-4-(4-hydroxyphenyl)-4-methylpentane, 1.5 g of K2CO3, 3 ml of isopropyl bromide and 20 ml of dimethylformamide was stirred at 130° C. for two hours. The reaction mixture was poured into water and extracted with benzene. The benzene extract was washed with water and dried, and the solvent was evaporated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: benzene) to give 0.3 g of 1-(3-phenoxyphenyl)-4-(4-isopropoxyphenyl)-4-methylpentane.

reactant | 1-(3-phenoxyphenyl)-4-(4-hydroxyphenyl)-4-methylpentane | 0.5 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)CCCC(C)(C)C1=CC=C(C=C1)O | C24H26O2
reactant | K2CO3 | 1.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | isopropyl bromide | 3 ml | C(C)(C)Br | C3H7Br
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(3-phenoxyphenyl)-4-(4-isopropoxyphenyl)-4-methylpentane | 0.3 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)CCCC(C)(C)C1=CC=C(C=C1)OC(C)C | C27H32O2
